US04550981
The crude 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-formylphenyl ester (19.1 g) obtained was dissolved in 800 ml of acetone. 30 ml of Jones' reagent were added dropwise to this solution within 15 minutes, the mixture warming slightly. The mixture was stirred for a further 40 minutes, then the separated inorganic material was filtered off under suction and the filtrate was concentrated. The residue was suspended in water and the suspension obtained was suction filtered. The residue was washed neutral with water on the suction filter and recrystallized from acetone, there being obtained 14.6 g of 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-carboxyphenyl ester; m.p. (C-S) 135°-136° C., transition S-N 156° C., cl.p. (N-I) >300° C.

reactant | 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-formylphenyl ester | 19.1 g | C(=O)C1=CC=C(C=C1)OC(C1=C(C=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)CCCCCCC)Cl)=O | C28H33ClO5
reactant | Jones' reagent | 30 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 800 ml | CC(=O)C | C3H6O
product | 2-chloro-4-[[(trans-4-heptylcyclohexyl)carbonyl]oxy]benzoic acid p-carboxyphenyl ester | 14.6 g | C(=O)(O)C1=CC=C(C=C1)OC(C1=C(C=C(C=C1)OC(=O)[C@@H]1CC[C@H](CC1)CCCCCCC)Cl)=O | C28H33ClO6
